US08623859B2
N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-{[4-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)furan-2-yl]methyl}benzenesulfonamide
The title compound was prepared according to general procedure AM using 5-({cyclopropyl[(4-methoxy-2,6 dimethylphenyl)sulfonyl]amino}methyl)furan-3-carboxylic acid (126 mg, 0.33 mmol), 1-[(1-methylpiperidin-4-yl)methyl]piperazine (59 mg, 0.30 mmol), DIC (79 μL, 0.5 mmol) and HOBt monohydrate (76 mg, 0.5 mmol) in DCM (2.5 mL). The crude product was purified by FCC eluting with 95:5 DCM:7N NH3 in MeOH.

reactant | 5-({cyclopropyl[(4-methoxy-2,6 dimethylphenyl)sulfonyl]amino}methyl)furan-3-carboxylic acid | 0.33 mmol, 126 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC(=CO1)C(=O)O | C18H21NO6S
reactant | 1-[(1-methylpiperidin-4-yl)methyl]piperazine | 0.30 mmol, 59 mg | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
reactant | DIC | 0.5 mmol, 79 μL | CC(N=C=NC(C)C)C | C7H14N2
reactant | HOBt monohydrate | 0.5 mmol, 76 mg | C1=CC=C2C(=C1)N=NN2O.O
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclopropyl-4-methoxy-2,6-dimethyl-N-{[4-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)furan-2-yl]methyl}benzenesulfonamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(C1)C(=O)N1CCN(CC1)CC1CCN(CC1)C | C29H42N4O5S
